US07320972B2
(3R,4S)-4-(4-Bromo-2-hydroxyphenyl)-3-[(3S)-3-{[tert-butyl(dimethyl)silyl]oxy}-3-(4-fluorophenyl)propyl]-1-phenylazetidin-2-one (1.04 g, 1.79 mmol) was dissolved in anhydrous dichloromethane (5 mL), anhydrous N,N-dimethylformamide (5 mL) and stirred under nitrogen at room temperature. 2,6-Lutidine (1.0 mL, 920 mg, 8.6 mmol) was added followed by drop-wise addition of tert-butyldimethylsilyl trifluromethane sulfonate (1.2 mL, 1.38 g, 5.22 mmol). The reaction was stirred under nitrogen at room temperature for 2.25 h. 2,6-Lutidine (0.25 mL, 230 mg, 2.15 mmol) was added followed by addition of tert-butyldimethylsilyl trifluromethane sulfonate (0.4 mL, 460 mg, 1.74 mmol) and after a total of 4.5 h at room temperature the reaction was diluted with ethyl acetate and water and the layers were separated. The aqueous layer was extracted with ethyl acetate and the combined organic layers were washed with 0.5 N hydrochloric acid, saturated sodium bicarbonate solution, water (4 times) and brine, dried over sodium sulfate, filtered, concentrated and purified by chromatography (40 g silica gel, 1% to 85% ethyl acetate-hexane) to afford (3R,4S)-4-(4-bromo-2-{[tert-butyl(dimethyl)silyl]oxy}phenyl)-3-[(3S)-3-{[tert-butyl(dimethyl)silyl]oxy}-3-(4-fluorophenyl)propyl]-1-phenylazetidin-2-one (1.23 g, 99% yield); Rf 0.57 (1:4 ethyl acetate-hexane); 1H NMR (300 MHz, CDCl3) δ 7.33-7.14 (m, 6H), 7.09-6.91 (m, 6H), 4.99 (d, J=2.3 Hz, 1H), 4.62 (t, J=5.6 Hz, 1H), 3.06 (ddd, J=4.9, 2.5, 2.3 Hz, 1H), 1.97-1.69 (m, 4H), 1.03 (s, 9H), 0.84 (s, 9H), 0.33 (s, 3H), 0.29 (s, 3H), −0.01 (s, 3H), −0.20 (s, 3H) ppm.

reactant | (3R,4S)-4-(4-Bromo-2-hydroxyphenyl)-3-[(3S)-3-{[tert-butyl(dimethyl)silyl]oxy}-3-(4-fluorophenyl)propyl]-1-phenylazetidin-2-one | 1.79 mmol, 1.04 g | BrC1=CC(=C(C=C1)[C@@H]1[C@H](C(N1C1=CC=CC=C1)=O)CC[C@@H](C1=CC=C(C=C1)F)O[Si](C)(C)C(C)(C)C)O | C30H35BrFNO3Si
reactant | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
reactant | 2,6-Lutidine | 8.6 mmol, 1.0 mL, 920 mg | N1=C(C=CC=C1C)C | C7H9N
reactant | tert-butyldimethylsilyl trifluromethane sulfonate | 5.22 mmol, 1.2 mL, 1.38 g | FC(S(=O)(=O)O[Si](C)(C)C(C)(C)C)(F)F | C7H15F3O3SSi
reactant | 2,6-Lutidine | 2.15 mmol, 0.25 mL, 230 mg | N1=C(C=CC=C1C)C | C7H9N
reactant | tert-butyldimethylsilyl trifluromethane sulfonate | 1.74 mmol, 0.4 mL, 460 mg | FC(S(=O)(=O)O[Si](C)(C)C(C)(C)C)(F)F | C7H15F3O3SSi
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (3R,4S)-4-(4-bromo-2-{[tert-butyl(dimethyl)silyl]oxy}phenyl)-3-[(3S)-3-{[tert-butyl(dimethyl)silyl]oxy}-3-(4-fluorophenyl)propyl]-1-phenylazetidin-2-one | 1.23 g, 99% yield | BrC1=CC(=C(C=C1)[C@@H]1[C@H](C(N1C1=CC=CC=C1)=O)CC[C@@H](C1=CC=C(C=C1)F)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C | C36H49BrFNO3Si2
